US05354869
Methyl 2-methoxybenzoylacetate
58.5 g (1.08 mol) of sodium ethanolate are added to 500 ml of dimethyl carbonate. The mixture is then heated to boiling and traces of methanol are removed by distillation. 153.5 g (1.02 mol) of 2-methoxyacetophenone are allowed to drip in at 86° C. with vigorous stirring during the course of 4.5 hours. (If the reaction mixture becomes too viscous, a further addition of dimethyl carbonate is recommended.) The mixture is then subsequently stirred for a further 30 minutes and the solvent is removed by distillation under reduced pressure. After cooling to room temperature, 350 ml of water and 70 ml of glacial acetic acid are added and the mixture is stirred overnight. The oil formed is separated off and the aqueous phase is extracted by shaking with a total of 300 ml of ethyl acetate. The combined organic phases are first washed with a 6% strength sodium hydrogen carbonate solution (100 ml), then with a sodium chloride solution (the sodium chloride promotes the phase separation). After drying the ethyl acetate phase over sodium sulfate, filtration and after removing the solvent on a rotary evaporator, the remaining oil is distilled in a high vacuum.

reactant | sodium ethanolate | 1.08 mol, 58.5 g | C(C)[O-].[Na+]
reactant | 2-methoxyacetophenone | 1.02 mol, 153.5 g | COCC(=O)C1=CC=CC=C1 | C9H10O2
reactant | dimethyl carbonate | 500 ml | C(OC)(OC)=O | C3H6O3
product | Methyl 2-methoxybenzoylacetate | COC1=C(C(=O)CC(=O)OC)C=CC=C1 | C11H12O4
